US07449460B2
A mixture of 1.0 g (4.23 mmol) of 4-chloro-7-fluoro-6-methoxyquinoline-3-carbonitrile (AM100856), 1.114 g (4.65 mmol) of 3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)phenylamine and 0.489 g (4.23 mmol) of pyridine hydrochloride in 10 mL of 2-ethoxyethanol is heated at 120° C. for 1.5 hours, then cooled to room temperature. The resulting solid is filtered, washed with cold 2-ethoxyethanol, then ethyl acetate. After drying in vacuo, the solid is suspended in a saturated solution of sodium bicarbonate, stirred for 45 minutes and collected by filtration. The reaction product is washed with water and dried in vacuo, to provide 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile as a tan solid, mp 295-297° C.

reactant | 4-chloro-7-fluoro-6-methoxyquinoline-3-carbonitrile | 4.23 mmol, 1.0 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C11H6ClFN2O
reactant | 3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)phenylamine | 4.65 mmol, 1.114 g | ClC=1C=C(C=CC1SC=1N(C=CN1)C)N | C10H10ClN3S
reactant | pyridine hydrochloride | 4.23 mmol, 0.489 g | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C21H15ClFN5OS
